Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old woman with a history of mild 
dementia, hypothyroidism who presents for evaluation of a 
syncopal event.  
 She has had recurrent episodes of syncope, this being her third 
spell. Her husband notices this consistently has happened in the 
mornings after she takes donepezil. She took it this morning and 
a short time later did not feel well, then fainted. No 
tonic/clonic activity. Eyes had rolled back in her head. No 
urinary incontinence. She woke quickly, was slightly confused, 
but soon returned to baseline and went upstairs to sleep. This 
was similar to her previous syncope event ___ weeks ago. No 
recent fever, cough, nausea, vomiting, diarrhea. Her husband 
called Dr. ___ neuro) who spoke with Dr. ___ 
referred the patient to the ED.  
 Of note she recently had a 24 hour holter and ECHO, both of 
which were unrevealing.  
 In the ED, initial vitals were: 97.5 85 171/81 14 99% RA  
 Labs were notable for: WBC 14.9 (85% PMNs). Chemistry panel WNL 
(creatinine at baseline). UA bland.  
 Imaging notable for: CXR with "patchy left lower lobe opacity 
is subtle and may represent atelectasis or pneumonia".  
 She received: Azithromycin 500mg and CTX 1gm at 20:00. 
Azithromycin was stopped early due to nausea.  
 Vitals on transfer: 98.0 65 180/74 18 96% RA  
 
 On the floor, she appears comfortable. She acknowledges that 
she has had recurrent syncopal episodes, but feels that her last 
episode occurred a few days ago while she was out walking. She 
is unable to recall the events of the day. She does not recall 
being nauseous in the ED.  
 She denies chest pain, palpitations, dyspnea, cough, abdominal 
pain, nausea, vomiting, diarrhea, urinary symptoms, arthralgias, 
myalgias. She states her appetite has been good.
 
Past Medical History:
 Hypothyroidism  
 Osteoporosis  
 Hyperlipidemia  
 H/O herpes zoster  
 Dementia  
 Syncope 
 
Social History:
___
Family History:
Negative for early coronary artery disease,  
 colon cancer, breast cancer.
 
Physical Exam:
 
Upon admission:

Vital Signs: 98.1 164/72 74 18 99% RA  
 General: Lying in bed, asking for dinner, in NAD  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: Alert, oriented to self, ___. Date is ___ 
"nineteen-something."  

Upon discharge:
V/s: 97.5 156/60 69 18 98 r/a
Orthostatic v/s:
Lying flat: 164/60, 65
Standing 1: 184/82, 73
Standing 2: 170/71, 70
 General: Lying in bed, NAD 
 HEENT: Sclera anicteric, MMM, oropharynx clear
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: Alert, oriented to self, not MD, does not know the year, 
knows that we are in a hospital but doesn't know the name
 
___ Results:
LABS UPON ADMISSION:

___ 04:50PM BLOOD WBC-14.9*# RBC-4.81 Hgb-14.3 Hct-44.4 
MCV-92 MCH-29.7 MCHC-32.2 RDW-13.3 RDWSD-45.4 Plt ___
___ 04:50PM BLOOD Neuts-85.9* Lymphs-8.4* Monos-4.8* 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-12.82* AbsLymp-1.25 
AbsMono-0.71 AbsEos-0.01* AbsBaso-0.04
___ 04:50PM BLOOD Glucose-114* UreaN-16 Creat-0.9 Na-138 
K-4.2 Cl-103 HCO3-23 AnGap-16
___ 05:12AM BLOOD Calcium-9.1 Phos-4.1 Mg-2.2

LABS UPON DISCHARGE:

___ 05:12AM BLOOD WBC-10.0 RBC-4.38 Hgb-13.1 Hct-40.4 
MCV-92 MCH-29.9 MCHC-32.4 RDW-13.3 RDWSD-45.0 Plt ___
___ 05:12AM BLOOD Glucose-93 UreaN-20 Creat-0.9 Na-141 
K-3.9 Cl-106 HCO3-23 AnGap-16

IMAGING:
CXR ___
FINDINGS:  
Patchy left lower lobe opacity may be due to atelectasis or 
pneumonia.  No 
focal consolidation is seen on the right.  No pleural effusion 
or pneumothorax is seen. Cardiac silhouette is top-normal to 
mildly enlarged.  Mediastinal contours are unremarkable. 

EKG upon admission:
NSR at 80, PR 161, QTC 502, NSR at 80 beats, nl axis and 
transition, sub mm ST depression in v4-v5

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a history of 
dementia, and hypothyroidism who presents for evaluation of a 
syncopal event.  
 
# Recurrent syncope: 
Hx not consistent with seizure. Patient had EKG w/o arrhythmia 
or AV block and telemetry monitoring was unremarkable. 
Orthostatic vital signs were normal. Hx was not c/w seizure. 
Patient has had outpatient echo, which was normal, and a 
___ hour holter monitor this month, which was 
unrevealing. Per the patient's husband, her events have been 
related to donepezil administration, which does have a 2% risk 
of syncope. Donepezil was discontinued during this 
hospitalization. Her labs were only note-able for a mild 
leukcocytosis upon admission, that resolved on hospital day 2. 
She did have a faint opacity on CXR but no other clinical s/sx 
of infection or pneumonia, so she was not treated with full 
course of abx. The etiology of her syncope remains unknown 
although donepezil may be the culprit. She was set up with a 
long term 30 day cardiac monitor upon discharge and has follow 
up with her PCP and cognitive neurologist. 

Transitional issues:
-F/u with PCP and neurology
-___ work up for syncope
-Consider tilt table as an outpatient
-We discontinued donepezil
-Re check EKG at f/u given QTC of 502
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Donepezil 10 mg PO QAM 
2. Levothyroxine Sodium 112 mcg PO DAILY 
3. Cyanocobalamin 1000 mcg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Vitamin E 800 UNIT PO DAILY 

 
Discharge Medications:
1. Cyanocobalamin 1000 mcg PO DAILY 
2. Levothyroxine Sodium 112 mcg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Vitamin E 800 UNIT PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Syncope:

Secondary diagnoses:
Hypothyroidism
Osteoporosis
Hyperlipidemia
Dementia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

Why did I come to the hospital?
-You came to the hospital because you fainted

What happened while I was in the hospital?
-We checked your blood work, which was normal. We looked at the 
rhythm of your heart using an EKG, which did not show any 
arrhythmia. -You were fitted for a heart monitor, which will 
monitor the activity of your heart for a month. This will help 
us see if your heart is causing you to pass out.
-We are not sure why you have had these fainting episodes but 
there is a small risk of fainting with donepezil so we have 
stopped this medication.

What should I do when I leave the hospital?
-Please make sure you attend all of your doctor appointments
-___ taking donepezil

Best,
Your ___ team

 
Followup Instructions:
___